US08048862B2
tert-Butylamine (7.9 mL, 75 mmol.) was dissolved in 50 mL of THF. The solution was cooled to −20° C. and (ethoxycarbonyl)methanesulfonyl chloride dissolved in 10 mL of THF was added slowly. The reaction mixture was allowed to warm to room temperature and stirred for 24 h. The mixture was filtered, and the filtrate concentrated in vacuo. The residue was purified by column chromatography (PE/EtOAc; 2:1) to afford ethyl-2-(N-tert-butylsulfamoyl)acetate (4.1 g, 43%).

reactant | tert-Butylamine | 75 mmol, 7.9 mL | C(C)(C)(C)N | C4H11N
reactant | (ethoxycarbonyl)methanesulfonyl chloride | C(C)OC(=O)CS(=O)(=O)Cl | C4H7ClO4S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ethyl-2-(N-tert-butylsulfamoyl)acetate | 4.1 g, 43% | C(C)OC(CS(NC(C)(C)C)(=O)=O)=O | C8H17NO4S
